Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
hemoptysis
 
Major Surgical or Invasive Procedure:
- bronchoscopy ___ with ablation of small bleed in lingula

 
History of Present Illness:
___ with history of metastatic renal cell carcinoma (___) and 
NSTEMI with ___ (___) here with hemoptysis. Per 
patient and wife, he developed sudden-onset bright red, small 
volume ("a few tablespoons") hemoptysis yesterday morning which 
resolved spontaneously. He presented to his local ED where a CT 
scan was performed; he was sent home after experiencing no 
further episodes with instructions to return if needed. 
Yesterday evening he again experienced identical symptoms, and 
was ultimately referred to the ___ ED by Dr. ___. He does 
note URI symptoms, including sinus congestion, headache, and 
cough productive of small amounts sputum in past week. His 
family members have been experiencing similar symptoms. Denies 
previous hemoptysis, denies worsening cough, chest pain, 
dyspnea, orthopnea, lower extremity swelling, fever, chills, 
nasuea, vomiting, diarrhea, or any other symptoms. He takes 
aspirin chronically for history of CAD/NSTEMI; finished course 
of clopidogrel one year after stent placement.

In the ED initial vitals were as follows: 97.1 72 153/86 16 
100%. He was not given any medications and was not given any 
fluids. His labs were significant for a H/H of 12.7/38.4, normal 
platelet count, and normal PTT. He brought CT images with him 
from ___ which have been uploaded for a second 
read. He had no further episodes of hemoptysis. Vitals on 
transfer to floor: 97.9, HR 72, RR 18, BP 118/74, O2 sat 98% RA. 
 

Review of Systems:
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies chest pain or tightness, palpitations, lower 
extremity edema. Denies nausea, vomiting, diarrhea, 
constipation, abdominal pain, melena, hematemesis, hematochezia. 
Denies dysuria, stool or urine incontinence. Denies arthralgias 
or myalgias. Denies rashes or skin breakdown. No 
numbness/tingling in extremities. All other systems negative.  
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: presented with flank pain and hematuria. CT showed 
left  
renal mass. Negative CXR at that time.  
- ___: skull x-ray with lytic left frontal lesion 
correlates  
with bone scan and likely represents metastasis however this was 
 
further thought to be due to childhood trauma.  
- ___: left nephrectomy for renal cell carcinoma, clear 
cell  
type, 13.8 cm II/IV without LVI. pT2bNx. Open radical 
nephrectomy  
done at ___ by Dr. ___. Pathology at  

___. Tumor was confined to the renal parenchyma and did not  
invade the renal capsule, renal vein, renal artery, ureteric  
resection margine. Tumor necrosis was present.  
- ___: first seen by Dr. ___ (medical oncology). 
 
Discussed ___ ___ of adjuvant everolimus. Decided against  
treatment.  
- ___: Bone scan with stable uptake in left frontal bone. 
CT  
with 3.3X2.1X4cm lobular heterogenous mass with peripheral  
enhacement and low attenuation high suggestive of metastatic  
disease and multiple bilateral pulmonary nodules suggestive of  
pulmonary disease largest 10mm, and indeterminant lesion in left 
 
femoral neck and right iliac wing may be osseous disease  
- ___: PET/CT with lobular mass in left superior  
mediastinum with SUV of 2.5, non FDG avid bilateral pulmonary  
nodules from 4-6mm with SUV<1  
- ___: PET CT with new bilateral hilar LAD with significant  
FDG uptakee, measuring 2.5cm and increased size of lung nodules  

with new pulmonary nodules and enlarging previously documented  
nodules without FDG avidity, stable left thoracic mass at left  
thoracic inlet of 3cm which is borderline FDG avid within mass.  

The new right inferior hilar LNs with significant elevated FDG  
uptake of 2.5cm. Elevated FDG uptake also present in smaller 
left  
hilar LNs. The lung parenchyma shows pair of right middle lobe  
pulmonary masses which increased compared to ___. There 
were  
several other smaller peripheral RML pulmonary masses present.  
These were non-FDG avid but wiith large growth since ___.  
Several pulmonary nodules and small masses in the RLL which are  

new since the prior study. There is stable 11mm mass in he right 
 
apex. The right apical mass does not show elevated FDG uptake.  
Abd/pelvis reveals left nephrectomy. Bones unremarkable.  
- ___: RML wedge positive for RCC at ___ 
___ by Dr. ___ through flexible bronchoscopy and 
right VATS with wedge resection. Path at ___ with ___ 
intrapulmonary LNs.  
Involved area was 0.7cm. IHC stains were positive for 
pankeratin,  
RCC antigen, vimentin and negative for CK7 and 20.  
- ___: met with Dr. ___ at ___  
___ and discussed option of ___  
- ___: met with Dr. ___ at ___ and fellow Dr. ___  
___  
-___ Signed consent for protocol ___, Coh 1  
-___ C1D1 protocol ___ Phase II study of PD-1 blockade 
alone or in conjunction with the dendritic cell (DC)/renal cell 
carcinoma (RCC) fusion cell vaccination.  
-___ C2D1 protocol ___ Phase II study of PD-1 blockade 
alone or in conjunction with the dendritic cell (DC)/renal cell 
carcinoma (RCC) fusion cell vaccination.  
PAST MEDICAL HISTORY:  
- CAD s/p MI ___ with stent followed by Dr. ___  
- hernia repair, ___  
- right foot fracture, ___  
- ganglion cyst removal  
- MVA as ___ with ejection from car, intraperitoneal  
hemorrhage with persistent left frontal bone lump  
- s/p tonseillectomy  
 
Social History:
___
Family History:
Mother: alive at ___. hypoglycemia.
Father: alive at ___. S/p CABG.
Siblings: ___ brother who does not have cancer as far as he 
knows
Children: 1 healthy son and 1 healthy daughter.
___ aunt with cancer of unknown cause. No other family 
history of cancer.
 
Physical Exam:
VS - 97.4, 130/80, 68, 0.96RA  
 Gen: NAD, AAOx3, sitting comfortably in bed
 HEENT: nc/at, perrla, eomi, oropharynx clear without visible 
blood or erythema, no lad
 CV: rrr, no m/r/g
 Pulm: CTAB, occasional dry coughing
 Abd: BS+, soft, nt, nd
 MSK: no c/c/e, dorsalis pedis and radial pulses 2+ bilaterally
 Neuro: CNII-XII intact, moving all extremities, sensation 
grossly intact
 
Pertinent Results:
___ 04:00AM   WBC-7.6 RBC-5.13 HGB-12.7* HCT-38.4* MCV-75* 
MCH-24.8* MCHC-33.2 RDW-14.3
___ 04:00AM   NEUTS-66.7 ___ MONOS-9.1 EOS-2.5 
BASOS-0.5
___ 04:00AM   PLT COUNT-343
___ 04:00AM   ___ PTT-34.1 ___
___ 04:00AM   GLUCOSE-117* UREA N-17 CREAT-1.2 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-23 ANION GAP-15
___ 06:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
 
Brief Hospital Course:
Mr. ___ was admitted to ___ on ___ for evaluation and 
management of his sudden-onset small-volume hemoptysis in the 
setting of renal cell carcinoma metastatic to the lung. He was 
on cycle 2, day 7 of Phase II study ___. His hospital course 
by problem is as follows:

1) Hemoptysis - Mr. ___ hemoptysis was attributed to 
progressive pulmonary renal cell carcinoma metastases. His 
history and symptoms were non-life threatening, yet particularly 
concerning for disease progression and/or drug reaction. He is 
on a phase II trial as above. A preliminary re-read of his CT 
from outside hospital identified mildly increased pulmonary 
nodule size. It was determined he would benefit from 
bronchoscopy to determine the source of his bleed. He underwent 
bronchoscopy on the afternoon of ___. The procedure 
identified a small area of slow bleeding in the lingula. This 
lesion was ablated. Additionally, 2 small non-bleeding nodules 
in the left upper lobe were prophylactically ablated. Neither 
the left lower lobe nor the lobes of the right lung demonstrated 
evidence of recent bleed.

2) URI - Patient's complaints of sinus congestion, cough 
productive of sputum, lack of fever, and exposure to family 
members feeling like they had a "cold" were attributed to viral 
respiratory infection. Thought to be an exacerbating factor 
causing hemoptysis, though not able to rule out disease 
progression versus drug reaction at this time. Encouraged PO 
intake.

# Metastatic RCC - Followed by Dr. ___. Stable throughout 
admission.

# NSTEMI with drug-eluting stent (___) s/p clopidogrel course 
and now on aspirin regimen. Aspirin held during hospitalization 
given recent hemoptysis. To be resumed upon discharge.

============================
TRANSITIONAL ISSUES:
- Patient remained full-code throughout his stay.
- A serious adverse event report was issued upon arrival to the 
hospital given his enrollment in the above Phase II trial.
- He will require follow-up with Dr. ___ Dr. ___ 
principal investigator) upon discharge.

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Omeprazole 40 mg PO DAILY 
2. Acetaminophen 500 mg PO Q6H:PRN pain 
3. Aspirin 81 mg PO DAILY 
4. Ibuprofen 200 mg PO Q8H:PRN pain 
5. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Omeprazole 40 mg PO DAILY 
4. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
5. Aspirin 81 mg PO DAILY 
6. Ibuprofen 200 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- hemoptysis
- metastatic renal cell carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

Thank you for choosing ___ for your medical care. You were 
briefly admitted on ___ for a bronchoscopy to control 
bleeding in your lungs, which had caused a few episodes of 
coughing up blood. Your procedure was successful and did not 
have any complications. There was a very small nodule on the 
left side of your lung that was bleeding slowly. You had 2 small 
lesions in the left upper lobe of your lung that were also 
ablated to prevent future bleeding. There was no bleeding in 
your right lung.

Upon discharge, please keep all your scheduled appointments with 
Dr. ___ Dr. ___. Please resume your medications 
you were taking prior to arrival. You may continue to take 
aspirin. You may eat your normal diet.

Please call the Hematology-Oncology office at ___ or 
present to the emergency department if you experience any of the 
following: chest pain, palpitations, lightheadness or vertigo, 
worsening cough, coughing up blood, fever, chills, night sweats, 
abdominal pain, nausea, vomiting, diarrhea, or any other 
symptoms that concern you.
 
Followup Instructions:
___